US07666879B2
Combine 7-[2-(4-Methyl-piperazin-1-yl)-pyrimidin-5-yl]-3-(4-nitro-phenyl)-imidazo[1,2-a]pyridine (0.318 g, 0.765 mmol), iron(III) chloride (0.006 g, 0.038 mmol), and 1,1-dimethylhydrazine (0.58 mL, 7.65 mmol) in methanol (10 mL). Attach a reflux condenser, and heat the mixture to 70° C., stir overnight (15 hours), and cool to room temperature. Slurry the mixture into additional methanol and filter through Celite® 521. Concentrate the solution in vacuo. Purify by column chromatography (ethyl acetate→5% methanol in dichloromethane→8% methanol in dichloromethane→10% methanol in dichloromethane) to afford a yellow solid intermediate amine, 4-{7-[2-(4-methyl-piperazin-1-yl)-pyrimidin-5-yl]-imidazo[1,2-a]pyridin-3-yl}-phenylamine. Use as is. MS(ES), m/z 386 (M+1).

reactant | 7-[2-(4-Methyl-piperazin-1-yl)-pyrimidin-5-yl]-3-(4-nitro-phenyl)-imidazo[1,2-a]pyridine | 0.765 mmol, 0.318 g | CN1CCN(CC1)C1=NC=C(C=N1)C1=CC=2N(C=C1)C(=CN2)C2=CC=C(C=C2)[N+](=O)[O-] | C22H21N7O2
reactant | 1,1-dimethylhydrazine | 7.65 mmol, 0.58 mL | CN(N)C | C2H8N2
solvent | methanol | 10 mL | CO | CH4O
catalyst | iron(III) chloride | 0.038 mmol, 0.006 g | [Fe](Cl)(Cl)Cl
product | 4-{7-[2-(4-methyl-piperazin-1-yl)-pyrimidin-5-yl]-imidazo[1,2-a]pyridin-3-yl}-phenylamine | CN1CCN(CC1)C1=NC=C(C=N1)C1=CC=2N(C=C1)C(=CN2)C2=CC=C(C=C2)N | C22H23N7
